US09238656B2
Synthesis of (1S,2S,3R,4R)-3-[6-Bromo-2-(4-dimethylamino-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound LXXVI)
(1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (1.30 mg, 0.386 mmol), 4-(dimethylamino)benzaldehyde (63.3 mg, 0.424 mmol) and ammonium acetate (59.4 mg, 0.771 mmol) were heated in ethanol (5 mL) at 70° C. for 18 hours. The desired product precipitated from the reaction mixture. The mixture was diluted with ethyl ether (5 mL) and filtered. The remaining solid was dried under high vacuum to afford 85 mg (47%) of the title compound. mp: 264-265° C., 1H NMR (300 MHz, DMSO-d6): 12.73 (s, 1H), 7.96 (d, J=8 Hz, 2H), 7.84 (d, J=4 Hz, 1H), 7.65 (s, 1H), 7.15 (s, 1H), 6.81 (d, J=8 Hz, 2H), 6.70 (d, J=8 Hz, 1H), 6.37 (d, J=8 Hz, 1H), 6.32 (s, 2H), 3.89 (br s, 1H), 2.99 (s, 6H), 2.87 (s, 1H), 2.75 (s, 1H), 2.60 (d, J=7 Hz, 1H), 2.24 (d, J=8 Hz, 1H), 1.42 (d, J=8 Hz, 1H). MS: 467, 469 (M+H), HPLC: 2.43 min (G method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.386 mmol, 1.30 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Br | C13H16BrN5O
reactant | 4-(dimethylamino)benzaldehyde | 0.424 mmol, 63.3 mg | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | ammonium acetate | 0.771 mmol, 59.4 mg | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (1S,2S,3R,4R)-3-[6-Bromo-2-(4-dimethylamino-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 85 mg, 47% | BrC=1C(=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)N(C)C)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C22H23BrN6O
